* =====================================================================
* ECTC 2024 / APEC 2025 BASELINE: 4 PHASES x 4 PARALLEL MODULES
* 48 V -> 1 V, 1 kW, 5 MHz nominal
* No capacitor-voltage or output-voltage initial conditions are imposed.
* =====================================================================

* ------------------------ SYSTEM PARAMETERS --------------------------
.param VIN_FINAL=48 VOUT_TARGET=1 POUT=1000
.param NPHASES=4 NMODULES=4 FSW=5Meg T={1/FSW}
.param D_IDEAL={NPHASES*VOUT_TARGET/VIN_FINAL}
.param TON={D_IDEAL*T} TON_MIN=3.4n
.param IOUT={POUT/VOUT_TARGET}
.param IPHASE_PK={2*IOUT/(NPHASES*NMODULES)}
.param RLOAD={VOUT_TARGET*VOUT_TARGET/POUT}

* Eq. (4) and the independently reported Table 1 value at 5 MHz.
.param L_EQ4={NPHASES*NMODULES*VOUT_TARGET*(1-NPHASES*VOUT_TARGET/VIN_FINAL)/(2*IOUT*FSW)}
.param L_TABLE1={2.68n*5Meg/FSW}
* LMODE=0 uses printed Eq. (4); LMODE=1 uses Table 1.
.step param LMODE list 0 1
.param LPHASE={if(LMODE<0.5,L_EQ4,L_TABLE1)}

* ---------------- UNPUBLISHED IMPLEMENTATION INPUTS ------------------
* These values are explicit assumptions, not values reported in either paper.
.param CFLY=2u CFLY_ESR=.5m
.param COUT=2m COUT_ESR=.1m
.param RON_H=1m RON_L=1m
.param COSS_H=100p COSS_L=200p
.param TDEAD=.2n TENABLE=5u TRAMP=40u
.param RSOURCE=5m LSOURCE=10n

* Dynamic startup: no IC=36/24/12 and no .ic V(out)=1.
VRAIL vin_raw 0 PWL(0 0 {TENABLE} 0 {TENABLE+TRAMP} {VIN_FINAL} 500u {VIN_FINAL})
RINPUT vin_raw vin_limited {RSOURCE}
LINPUT vin_limited vin {LSOURCE}

* Four modules are globally interleaved by one sixteenth of a switching
* period, so the 16 high-side events are uniformly distributed.
XMOD1 vin out 0 SCB4 PARAMS: MOFF=0
XMOD2 vin out 0 SCB4 PARAMS: MOFF={T/16}
XMOD3 vin out 0 SCB4 PARAMS: MOFF={2*T/16}
XMOD4 vin out 0 SCB4 PARAMS: MOFF={3*T/16}

COUT_MAIN out 0 {COUT} Rser={COUT_ESR}
RLOAD_MAIN out 0 {RLOAD}

* -------------------------- MEASUREMENTS -----------------------------
.meas tran TON_CALC PARAM {TON}
.meas tran DUTY_CALC PARAM {D_IDEAL}
.meas tran IPHASE_PK_TABLE_RELATION PARAM {IPHASE_PK}
.meas tran L_EQ4_VALUE PARAM {L_EQ4}
.meas tran L_TABLE1_VALUE PARAM {L_TABLE1}
.meas tran VOUT_FINAL AVG V(out) FROM 380u TO 400u
.meas tran VC11_FINAL AVG V(xmod1:a1,xmod1:sw1) FROM 380u TO 400u
.meas tran VC12_FINAL AVG V(xmod1:a2,xmod1:sw2) FROM 380u TO 400u
.meas tran VC13_FINAL AVG V(xmod1:a3,xmod1:sw3) FROM 380u TO 400u
.meas tran IL11_MAX MAX I(XMOD1:L1) FROM 300u TO 400u
.meas tran IL11_MIN MIN I(XMOD1:L1) FROM 300u TO 400u
.meas tran IINPUT_PEAK MAX I(VRAIL) FROM 0 TO 400u

.options plotwinsize=500 reltol=.003
.save V(vin) V(out) V(xmod1:a1,xmod1:sw1) V(xmod1:a2,xmod1:sw2) V(xmod1:a3,xmod1:sw3) I(VRAIL) I(XMOD1:L1)
.tran 0 400u 0 .5n startup

* -------------------- COMPLETE FOUR-PHASE MODULE ---------------------
* Low-side sources are connected to common ground as explicitly drawn in
* the authors' 2025 APEC prototype. Extending it to phase 4 completes the
* connection omitted/ambiguous in the 2024 conceptual drawing.
.subckt SCB4 vin out g PARAMS: MOFF=0

* Module-local phase offsets are 0, T/4, T/2 and 3T/4.
BH1 gh1 g V=if(time>TENABLE & mod(time-MOFF+T,T)>TDEAD/2 & mod(time-MOFF+T,T)<TON-TDEAD/2,5,0)
BL1 gl1 g V=if(time>TENABLE & mod(time-MOFF+T,T)>TON+TDEAD/2 & mod(time-MOFF+T,T)<T-TDEAD/2,5,0)
BH2 gh2 g V=if(time>TENABLE & mod(time-MOFF+T-T/4,T)>TDEAD/2 & mod(time-MOFF+T-T/4,T)<TON-TDEAD/2,5,0)
BL2 gl2 g V=if(time>TENABLE & mod(time-MOFF+T-T/4,T)>TON+TDEAD/2 & mod(time-MOFF+T-T/4,T)<T-TDEAD/2,5,0)
BH3 gh3 g V=if(time>TENABLE & mod(time-MOFF+T-T/2,T)>TDEAD/2 & mod(time-MOFF+T-T/2,T)<TON-TDEAD/2,5,0)
BL3 gl3 g V=if(time>TENABLE & mod(time-MOFF+T-T/2,T)>TON+TDEAD/2 & mod(time-MOFF+T-T/2,T)<T-TDEAD/2,5,0)
BH4 gh4 g V=if(time>TENABLE & mod(time-MOFF+T-3*T/4,T)>TDEAD/2 & mod(time-MOFF+T-3*T/4,T)<TON-TDEAD/2,5,0)
BL4 gl4 g V=if(time>TENABLE & mod(time-MOFF+T-3*T/4,T)>TON+TDEAD/2 & mod(time-MOFF+T-3*T/4,T)<T-TDEAD/2,5,0)

SH1 vin a1 gh1 g SWH
CS1 a1 sw1 {CFLY} Rser={CFLY_ESR}
SL1 sw1 g gl1 g SWL
L1 sw1 out {LPHASE}

SH2 a1 a2 gh2 g SWH
CS2 a2 sw2 {CFLY} Rser={CFLY_ESR}
SL2 sw2 g gl2 g SWL
L2 sw2 out {LPHASE}

SH3 a2 a3 gh3 g SWH
CS3 a3 sw3 {CFLY} Rser={CFLY_ESR}
SL3 sw3 g gl3 g SWL
L3 sw3 out {LPHASE}

SH4 a3 sw4 gh4 g SWH
SL4 sw4 g gl4 g SWL
L4 sw4 out {LPHASE}

* GaN reverse conduction and output-capacitance approximation.
DH1 a1 vin DMOD
DL1 g sw1 DMOD
DH2 a2 a1 DMOD
DL2 g sw2 DMOD
DH3 a3 a2 DMOD
DL3 g sw3 DMOD
DH4 sw4 a3 DMOD
DL4 g sw4 DMOD
CH1 vin a1 {COSS_H}
CL1 sw1 g {COSS_L}
CH2 a1 a2 {COSS_H}
CL2 sw2 g {COSS_L}
CH3 a2 a3 {COSS_H}
CL3 sw3 g {COSS_L}
CH4 a3 sw4 {COSS_H}
CL4 sw4 g {COSS_L}

.model SWH SW(Ron={RON_H} Roff=100Meg Vt=2.5 Vh=.1)
.model SWL SW(Ron={RON_L} Roff=100Meg Vt=2.5 Vh=.1)
.model DMOD D(Ron=1m Roff=100Meg Vfwd=.1)
.ends SCB4

.end
