* ECTC 2024 SCB IVR -- sourced-parameter attempt
* 48 V -> 1 V, 1 kW, 4 phases x 4 modules, 5 MHz
* No IC statements and no preset 36/24/12 V flying-capacitor voltages.

.param VIN=48 VOUT=1 POUT=1000 NP=4 NM=4 FSW=5Meg T={1/FSW}
.param D={NP*VOUT/VIN} TON={D*T} IOUT={POUT/VOUT}
.param RLOAD={VOUT*VOUT/POUT}

* Table 1 value.  Printed Eq. (4) gives 1.467 nH instead of 2.68 nH.
.param LPHASE=2.68n

* APEC 2025 Eq. (23): Cfly >= 1.05*Io/(4*np*nM*fsw*dVc).
* dVc=0.12 V is a declared design target (1% of the 12 V ladder step).
.param DVC_ALLOW=.12
.param CFLY={1.05*IOUT/(4*NP*NM*FSW*DVC_ALLOW)}

* EPC2067 official typical values, scaled for ECTC 2024 Table 3:
* 2 parallel devices/high-side position and 3/low-side position.
.param RON_H={1.3m/2} RON_L={1.3m/3}
.param COSS_H={1597p*2} COSS_L={1597p*3}
.param VGATE=5 VF_REV=1.2

* Not reported by either paper: kept explicit and sweepable.
* ESR/ESL are provisional embedded-MLCC values; COUT is a provisional bank.
.param CFLY_ESR=.5m CFLY_ESL=30p
.param COUT=470u COUT_ESR=.2m COUT_ESL=30p
.param TDEAD=2n TENABLE=5u TRAMP=40u
.param RSOURCE=5m LSOURCE=10n

VRAIL vin_raw 0 PWL(0 0 {TENABLE} 0 {TENABLE+TRAMP} {VIN} 1m {VIN})
RINPUT vin_raw vin_limited {RSOURCE}
LINPUT vin_limited vin {LSOURCE}

XMOD1 vin out 0 SCB4P PARAMS: MOFF=0
XMOD2 vin out 0 SCB4P PARAMS: MOFF={T/16}
XMOD3 vin out 0 SCB4P PARAMS: MOFF={2*T/16}
XMOD4 vin out 0 SCB4P PARAMS: MOFF={3*T/16}

LCO out out_c {COUT_ESL}
RCO out_c out_cr {COUT_ESR}
CCO out_cr 0 {COUT}
RLOAD_MAIN out 0 {RLOAD}

.meas tran CFLY_VALUE PARAM {CFLY}
.meas tran VOUT_FINAL AVG V(out) FROM 480u TO 500u
.meas tran VC11_FINAL AVG V(xmod1:a1,xmod1:sw1) FROM 480u TO 500u
.meas tran VC12_FINAL AVG V(xmod1:a2,xmod1:sw2) FROM 480u TO 500u
.meas tran VC13_FINAL AVG V(xmod1:a3,xmod1:sw3) FROM 480u TO 500u
.meas tran IL11_MAX MAX I(XMOD1:L1) FROM 450u TO 500u
.meas tran IL11_MIN MIN I(XMOD1:L1) FROM 450u TO 500u
.meas tran IINPUT_PEAK MAX I(VRAIL) FROM 0 TO 500u

.options plotwinsize=500 reltol=.003
.save V(vin) V(out) V(xmod1:a1,xmod1:sw1) V(xmod1:a2,xmod1:sw2) V(xmod1:a3,xmod1:sw3) I(VRAIL) I(XMOD1:L1)
.tran 0 500u 0 .5n startup

.subckt SCB4P vin out g PARAMS: MOFF=0
BH1 gh1 g V=if(time>TENABLE & mod(time-MOFF+T,T)>TDEAD/2 & mod(time-MOFF+T,T)<TON-TDEAD/2,VGATE,0)
BL1 gl1 g V=if(time>TENABLE & mod(time-MOFF+T,T)>TON+TDEAD/2 & mod(time-MOFF+T,T)<T-TDEAD/2,VGATE,0)
BH2 gh2 g V=if(time>TENABLE & mod(time-MOFF+T-T/4,T)>TDEAD/2 & mod(time-MOFF+T-T/4,T)<TON-TDEAD/2,VGATE,0)
BL2 gl2 g V=if(time>TENABLE & mod(time-MOFF+T-T/4,T)>TON+TDEAD/2 & mod(time-MOFF+T-T/4,T)<T-TDEAD/2,VGATE,0)
BH3 gh3 g V=if(time>TENABLE & mod(time-MOFF+T-T/2,T)>TDEAD/2 & mod(time-MOFF+T-T/2,T)<TON-TDEAD/2,VGATE,0)
BL3 gl3 g V=if(time>TENABLE & mod(time-MOFF+T-T/2,T)>TON+TDEAD/2 & mod(time-MOFF+T-T/2,T)<T-TDEAD/2,VGATE,0)
BH4 gh4 g V=if(time>TENABLE & mod(time-MOFF+T-3*T/4,T)>TDEAD/2 & mod(time-MOFF+T-3*T/4,T)<TON-TDEAD/2,VGATE,0)
BL4 gl4 g V=if(time>TENABLE & mod(time-MOFF+T-3*T/4,T)>TON+TDEAD/2 & mod(time-MOFF+T-3*T/4,T)<T-TDEAD/2,VGATE,0)

SH1 vin a1 gh1 g SWH
LCS1 a1 c1a {CFLY_ESL}
RCS1 c1a c1b {CFLY_ESR}
CS1 c1b sw1 {CFLY}
SL1 sw1 g gl1 g SWL
L1 sw1 out {LPHASE}

SH2 a1 a2 gh2 g SWH
LCS2 a2 c2a {CFLY_ESL}
RCS2 c2a c2b {CFLY_ESR}
CS2 c2b sw2 {CFLY}
SL2 sw2 g gl2 g SWL
L2 sw2 out {LPHASE}

SH3 a2 a3 gh3 g SWH
LCS3 a3 c3a {CFLY_ESL}
RCS3 c3a c3b {CFLY_ESR}
CS3 c3b sw3 {CFLY}
SL3 sw3 g gl3 g SWL
L3 sw3 out {LPHASE}

SH4 a3 sw4 gh4 g SWH
SL4 sw4 g gl4 g SWL
L4 sw4 out {LPHASE}

DH1 a1 vin DMOD
DL1 g sw1 DMOD
DH2 a2 a1 DMOD
DL2 g sw2 DMOD
DH3 a3 a2 DMOD
DL3 g sw3 DMOD
DH4 sw4 a3 DMOD
DL4 g sw4 DMOD
CH1 vin a1 {COSS_H}
CL1 sw1 g {COSS_L}
CH2 a1 a2 {COSS_H}
CL2 sw2 g {COSS_L}
CH3 a2 a3 {COSS_H}
CL3 sw3 g {COSS_L}
CH4 a3 sw4 {COSS_H}
CL4 sw4 g {COSS_L}

.model SWH SW(Ron={RON_H} Roff=100Meg Vt=2.5 Vh=.1)
.model SWL SW(Ron={RON_L} Roff=100Meg Vt=2.5 Vh=.1)
.model DMOD D(Ron=1m Roff=100Meg Vfwd={VF_REV})
.ends SCB4P
.end
